US08580957B2
A solution of 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(3-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate (for a preparation see intermediate 70) (161 mg, 0.310 mmol) in dichloromethane (DCM) (4 mL) was treated with trifluoroacetic acid (TFA) (1 mL, 12.98 mmol) and the resulting mixture was stirred at room temperature for 1.5 h then concentrated in vacuo. The residue was loaded on a 5 g SCX cartridge then eluted with MeOH (20 mL) followed by 2M NH3 in MeOH (20 mL). The ammonia fractions were combined and concentrated in vacuo to give a residue which was dissolved in DCM (5 mL). The resulting solution was treated with HCl (1M in Et2O, 0.22 mL, 0.220 mmol) then concentrated in vacuo. Trituration of the residue with Et2O gave (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(3-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (103.3 mg, 0.214 mmol, 68.9% yield) as a light brown solid.

reactant | 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(3-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | CC(C)(C)CN(C([O-])=O)CCN1N=CC(=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC=CC=C1C
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 0.220 mmol, 1M, 0.22 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(3-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.214 mmol, 103.3 mg, 68.9% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC1=NC=CC=C1C)C | InChI=1S/C24H30N6O.ClH/c1-16-6-5-9-26-24(16)28-22-12-17(2)30(18(3)31)23-8-7-19(13-21(22)23)20-14-27-29(15-20)11-10-25-4;/h5-9,13-15,17,22,25H,10-12H2,1-4H3,(H,26,28);1H/t17-,22+;/m0./s1
